*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 10:00:49 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "MX4X4"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  MX4X4 A B C D S0 S1 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 5.81273e-16
*|P (A X 0 0.9320 2.4440)
*|I (MX67/M0#g MX67/M0 g X 0 0.9050 0.8025)
*|I (MX74/M0#g MX74/M0 g X 0 0.9050 3.2375)
*|S (A#7 0.8450 2.3100)
*|S (A#8 0.9200 2.3100)
C1 MX74/M0#g VSS 4.77287e-17
C2 MX67/M0#g VSS 4.52911e-17
C3 A#7 VSS 1.53665e-16
C4 A VSS 3.34588e-16
Rg1 MX74/M0#g A#7 283.919281 $W=0.15
Rg2 A#7 MX67/M0#g 470.292603 $W=0.15
Rf3 A#8 A#7 20.647058 $W=0.17
Re4 A A#8 152.064423 $W=0.26
*
*|NET B 5.46754e-16
*|P (B X 0 2.3120 2.9840)
*|I (MX66/M0#g MX66/M0 g X 0 2.1950 0.8025)
*|I (MM0#g MM0 g X 0 2.1950 3.2375)
*|S (B#7 2.1950 2.6500)
*|S (B#8 2.3000 2.6500)
C5 MM0#g VSS 3.84735e-17
C6 MX66/M0#g VSS 4.95132e-17
C7 B#8 VSS 1.2384e-16
C8 B#7 VSS 1.58658e-16
C9 B VSS 1.7627e-16
Rg5 MM0#g B#7 169.942413 $W=0.15
Rg6 B#7 MX66/M0#g 574.822449 $W=0.15
Rf7 B#8 B#7 22.905882 $W=0.17
Re8 B B#8 152.160583 $W=0.26
*
*|NET C 5.88872e-16
*|P (C X 0 2.3320 1.4990)
*|I (MX68/M0#g MX68/M0 g X 0 2.6250 0.8025)
*|I (MX75/M0#g MX75/M0 g X 0 2.6250 3.2375)
*|S (C#7 2.6250 1.6300)
*|S (C#9 2.3200 1.6300)
C10 MX75/M0#g VSS 5.33734e-17
C11 MX68/M0#g VSS 4.59646e-17
C12 C#9 VSS 7.81364e-17
C13 C#7 VSS 8.99691e-17
C14 C VSS 3.21429e-16
Rg9 MX75/M0#g C#7 497.702423 $W=0.15
Rg10 C#7 MX68/M0#g 247.062408 $W=0.15
Rf11 C#7 C#9 37.964706 $W=0.17
Re12 C C#9 152.062988 $W=0.26
*
*|NET D 6.33627e-16
*|P (D X 0 3.6770 2.7490)
*|I (MX69/M0#g MX69/M0 g X 0 3.9150 0.8025)
*|I (MX76/M0#g MX76/M0 g X 0 3.9150 3.2375)
*|S (D#7 3.9150 2.6500)
*|S (D#9 3.6800 2.6500)
C15 MX76/M0#g VSS 4.70563e-17
C16 MX69/M0#g VSS 4.44024e-17
C17 D#9 VSS 6.90935e-17
C18 D#7 VSS 1.14579e-16
C19 D VSS 3.58496e-16
Rg13 MX76/M0#g D#7 169.942413 $W=0.15
Rg14 D#7 MX69/M0#g 574.822449 $W=0.15
Rf15 D#7 D#9 32.694118 $W=0.17
Re16 D D#9 152.047592 $W=0.26
*
*|NET S0 2.28237e-15
*|P (S0 X 0 1.3920 2.3640)
*|I (MX65/M0#g MX65/M0 g X 0 3.4850 0.8025)
*|I (MX64/M0#g MX64/M0 g X 0 1.7650 0.8025)
*|I (MX62/M0#g MX62/M0 g X 0 0.4750 0.8025)
*|I (MX77/M0#g MX77/M0 g X 0 0.4750 3.2375)
*|I (MX73/M0#g MX73/M0 g X 0 3.0550 3.2375)
*|I (MX72/M0#g MX72/M0 g X 0 1.3350 3.2375)
*|S (S0#19 0.3550 2.6500)
*|S (S0#20 0.4750 1.2900)
*|S (S0#21 1.3350 2.6500)
*|S (S0#22 1.7650 1.2900)
*|S (S0#23 3.0550 2.6500)
*|S (S0#24 3.4850 1.2900)
*|S (S0#25 1.3800 2.6500)
*|S (S0#29 2.8400 2.6500)
*|S (S0#31 2.8400 1.2900)
*|S (S0#33 1.3800 1.2900)
C20 MX72/M0#g VSS 4.76977e-17
C21 MX73/M0#g VSS 5.13537e-17
C22 MX77/M0#g VSS 5.15285e-17
C23 MX62/M0#g VSS 4.43103e-17
C24 MX64/M0#g VSS 3.86827e-17
C25 MX65/M0#g VSS 4.35035e-17
C26 S0#33 VSS 2.78728e-16
C27 S0#25 VSS 1.86296e-16
C28 S0#31 VSS 3.63957e-16
C29 S0#29 VSS 2.91963e-16
C30 S0#19 VSS 1.53767e-16
C31 S0#20 VSS 1.14451e-16
C32 S0#21 VSS 1.45174e-16
C33 S0#22 VSS 1.328e-16
C34 S0#23 VSS 7.0463e-17
C35 S0#24 VSS 1.09728e-16
C36 S0 VSS 1.57962e-16
Rg17 MX77/M0#g S0#19 167.730179 $W=0.15
Rg18 S0#19 S0#20 405.629517 $W=0.15
Rg19 S0#20 MX62/M0#g 137.809082 $W=0.15
Rg20 MX72/M0#g S0#21 184.942413 $W=0.15
Rg21 MX64/M0#g S0#22 152.809082 $W=0.15
Rg22 MX73/M0#g S0#23 169.942413 $W=0.15
Rg23 MX65/M0#g S0#24 137.809082 $W=0.15
Rf24 S0#25 S0#21 3.388236 $W=0.17
Rf25 S0#21 S0#19 88.788231 $W=0.17
Rf26 S0#23 S0#29 31.188236 $W=0.17
Rf27 S0#24 S0#31 63.564705 $W=0.17
Rf28 S0#31 S0#22 80.941177 $W=0.17
Rf29 S0#22 S0#33 28.988235 $W=0.17
Rf30 S0#33 S0#20 83.141174 $W=0.17
Re31 S0 S0#33 152.516342 $W=0.26
Re32 S0 S0#25 152.137497 $W=0.26
Re33 S0#29 S0#31 304.739136 $W=0.23
*
*|NET S1 7.64002e-16
*|P (S1 X 0 4.1520 1.5190)
*|I (MX63/M0#g MX63/M0 g X 0 4.3450 0.8025)
*|I (MX61/M0#g MX61/M0 g X 0 5.7250 0.9700)
*|I (MX79/M0#g MX79/M0 g X 0 5.2950 2.9850)
*|I (MX78/M0#g MX78/M0 g X 0 4.3450 3.2375)
*|S (S1#13 5.2950 2.0800)
*|S (S1#14 4.3450 2.0800)
*|S (S1#15 4.3450 1.9700)
*|S (S1#16 4.3450 1.2900)
*|S (S1#18 4.1300 1.9700)
*|S (S1#20 4.1400 1.2900)
C37 MX78/M0#g VSS 5.743e-17
C38 MX79/M0#g VSS 8.60981e-17
C39 MX61/M0#g VSS 7.0285e-17
C40 MX63/M0#g VSS 4.60597e-17
C41 S1#18 VSS 1.59109e-16
C42 S1#20 VSS 4.23416e-17
C43 S1#16 VSS 6.05015e-17
C44 S1#15 VSS 6.83911e-17
C45 S1 VSS 1.73786e-16
Rg34 MX61/M0#g S1#13 450.469818 $W=0.15
Rg35 S1#13 S1#14 248.508362 $W=0.15
Rg36 S1#14 S1#15 30.741186 $W=0.27
Rg37 S1#15 S1#16 179.600204 $W=0.15
Rg38 S1#16 MX63/M0#g 137.809082 $W=0.15
Rg39 S1#13 MX79/M0#g 288.961700 $W=0.15
Rg40 S1#14 MX78/M0#g 377.059906 $W=0.15
Rf41 S1#15 S1#18 31.188236 $W=0.17
Rf42 S1#16 S1#20 30.435295 $W=0.17
Re43 S1 S1#18 152.216827 $W=0.26
Re44 S1 S1#20 152.110092 $W=0.26
*
*|NET Y 1.1891e-15
*|P (Y X 0 7.8320 2.0040)
*|I (MX80/M0#d MX80/M0 d X 0 6.7505 0.9700)
*|I (MX80/M1#s MX80/M1 s X 0 7.0295 0.9700)
*|I (MX80/M2#d MX80/M2 d X 0 7.6105 0.9700)
*|I (MX80/M3#s MX80/M3 s X 0 7.8895 0.9700)
*|I (MX59/M0#d MX59/M0 d X 0 6.7505 2.9850)
*|I (MX59/M1#s MX59/M1 s X 0 7.0295 2.9850)
*|I (MX59/M2#d MX59/M2 d X 0 7.6105 2.9850)
*|I (MX59/M3#s MX59/M3 s X 0 7.8895 2.9850)
*|S (Y#2 6.8900 2.9450)
*|S (Y#3 6.8900 1.0050)
*|S (Y#6 7.7500 2.9450)
*|S (Y#7 7.7500 1.0050)
*|S (Y#9 7.7925 1.8850)
*|S (Y#10 6.8900 1.8850)
C46 MX80/M2#d VSS 1.08327e-16
C47 MX80/M0#d VSS 1.10313e-16
C48 Y#10 VSS 1.08607e-16
C49 Y#3 VSS 9.39153e-17
C50 Y#2 VSS 2.80561e-16
C51 Y#7 VSS 1.035e-16
C52 Y#6 VSS 2.84684e-16
C53 Y VSS 9.91896e-17
Rf45 MX59/M0#d Y#2 5.616868 $W=0.83
Rf46 Y#3 MX80/M0#d 8.423712 $W=0.485
Rf47 MX59/M2#d Y#6 5.616868 $W=0.83
Rf48 Y#7 MX80/M2#d 8.423712 $W=0.485
Re49 Y Y#9 0.044222 $W=0.315
Re50 Y#9 Y#10 0.378233 $W=0.23
Re51 Y#10 Y#3 76.473473 $W=0.23
Re52 Y Y#6 51.040081 $W=0.315
Re53 Y#9 Y#7 76.346207 $W=0.315
Re54 Y#10 Y#2 51.237968 $W=0.23
Rmw55 MX80/M1#s MX80/M0#d 0.001000 $W=1000000
Rmw56 MX80/M3#s MX80/M2#d 0.001000 $W=1000000
Rmw57 MX59/M1#s MX59/M0#d 0.001000 $W=1000000
Rmw58 MX59/M3#s MX59/M2#d 0.001000 $W=1000000
*
*|NET 1 1.31022e-15
*|I (MX71/M0#g MX71/M0 g X 0 3.0550 0.8025)
*|I (MX70/M0#g MX70/M0 g X 0 1.3350 0.8025)
*|I (MX62/M0#d MX62/M0 d X 0 0.3995 0.8025)
*|I (MX83/M0#g MX83/M0 g X 0 3.4850 3.2375)
*|I (MX82/M0#g MX82/M0 g X 0 1.7650 3.2375)
*|I (MX77/M0#d MX77/M0 d X 0 0.3995 3.2375)
*|S (1#13 1.5500 1.9700)
*|S (1 3.2700 1.9700)
*|S (1#16 0.2600 3.0900)
*|S (1#17 0.2600 0.8500)
*|S (1#20 1.5500 1.9700)
*|S (1#21 0.2600 1.9700)
C54 MX82/M0#g VSS 5.12768e-17
C55 MX83/M0#g VSS 5.75751e-17
C56 MX62/M0#d VSS 5.82052e-17
C57 MX70/M0#g VSS 4.9839e-17
C58 MX71/M0#g VSS 5.18801e-17
C59 1#17 VSS 1.17578e-16
C60 1#21 VSS 2.26391e-16
C61 1#16 VSS 2.1603e-16
C62 1#13 VSS 2.64982e-16
C63 1 VSS 2.16466e-16
Rg59 MX82/M0#g 1#13 418.796082 $W=0.15
Rg60 1#13 MX70/M0#g 386.662750 $W=0.15
Rg61 MX83/M0#g 1 418.796082 $W=0.15
Rg62 1 MX71/M0#g 386.662750 $W=0.15
Rf63 MX77/M0#d 1#16 25.917646 $W=0.17
Rf64 1#17 MX62/M0#d 18.764706 $W=0.17
Rf65 1 1#20 144.505890 $W=0.17
Rf66 1#20 1#21 249.129410 $W=0.17
Rf67 1#13 1#20 15.000000 $W=0.0289
Re68 1#16 1#21 152.608688 $W=0.23
Re69 1#21 1#17 152.608688 $W=0.23
*
*|NET 4 2.53164e-15
*|I (MX81/M0#d MX81/M0 d X 0 5.2195 0.9700)
*|I (MX70/M0#d MX70/M0 d X 0 1.4105 0.8025)
*|I (MX64/M0#d MX64/M0 d X 0 1.6895 0.8025)
*|I (MX82/M0#d MX82/M0 d X 0 1.6895 3.2375)
*|I (MX79/M0#s MX79/M0 s X 0 5.2195 2.9850)
*|I (MX72/M0#d MX72/M0 d X 0 1.4105 3.2375)
*|S (4 1.5500 3.3850)
*|S (4#4 1.5500 0.7550)
*|S (4#6 5.0800 2.9850)
*|S (4#7 5.0800 2.9100)
*|S (4#8 1.7650 2.3100)
*|S (4#9 5.0800 1.0050)
C64 MX79/M0#s VSS 4.34395e-16
C65 MX82/M0#d VSS 1.1582e-16
C66 MX81/M0#d VSS 1.14885e-16
C67 4#4 VSS 3.47968e-16
C68 4#8 VSS 7.55531e-16
C69 4#9 VSS 3.02671e-16
C70 4#7 VSS 2.75235e-16
C71 4 VSS 1.85134e-16
Rf70 4 MX82/M0#d 26.294117 $W=0.17
Rf71 MX70/M0#d 4#4 18.388235 $W=0.17
Rf72 4#6 4#7 1.811321 $W=0.53
Rf73 4#7 4#8 441.128204 $W=0.17
Rf74 MX79/M0#s 4#6 5.000000 $W=0.17
Rf75 4#9 MX81/M0#d 8.423712 $W=0.485
Re76 4 4#8 152.619598 $W=0.23
Re77 4#8 4#4 152.880463 $W=0.23
Re78 4#7 4#9 153.035324 $W=0.23
Rmw79 MX64/M0#d MX70/M0#d 0.001000 $W=1000000
Rmw80 MX72/M0#d MX82/M0#d 0.001000 $W=1000000
*
*|NET 9 1.25539e-15
*|I (MX81/M0#g MX81/M0 g X 0 5.2950 0.9700)
*|I (MX63/M0#d MX63/M0 d X 0 4.4205 0.8025)
*|I (MX78/M0#d MX78/M0 d X 0 4.4205 3.2375)
*|I (MX60/M0#g MX60/M0 g X 0 5.7250 2.9850)
*|S (9 5.7250 2.9850)
*|S (9#7 4.8650 1.6300)
*|S (9#8 6.1550 1.6300)
*|S (9#10 4.5600 3.0900)
*|S (9#11 4.5600 0.8500)
*|S (9#15 4.5600 1.6300)
C72 MX78/M0#d VSS 7.12837e-21
C73 MX63/M0#d VSS 6.97495e-17
C74 MX81/M0#g VSS 5.83819e-17
C75 9#11 VSS 1.29538e-16
C76 9#15 VSS 3.1468e-16
C77 9#10 VSS 2.76161e-16
C78 9#7 VSS 1.33336e-16
C79 9#8 VSS 1.97362e-16
C80 9 VSS 7.61701e-17
Rg81 MX81/M0#g 9#7 283.848816 $W=0.15
Rg82 9#8 9 497.644043 $W=0.15
Rf83 MX78/M0#d 9#10 25.917646 $W=0.17
Rf84 9#11 MX63/M0#d 18.764706 $W=0.17
Rf85 9#8 9#7 112.129410 $W=0.17
Rf86 9#7 9#15 174.964706 $W=0.17
Re87 9#10 9#15 152.793472 $W=0.23
Re88 9#15 9#11 152.423920 $W=0.23
Rmw89 MX60/M0#g 9 0.001000 $W=1000000
*
*|NET 10 1.81893e-15
*|I (MX81/M0#s MX81/M0 s X 0 5.3705 0.9700)
*|I (MX80/M0#g MX80/M0 g X 0 6.6750 0.9700)
*|I (MX80/M1#g MX80/M1 g X 0 7.1050 0.9700)
*|I (MX80/M2#g MX80/M2 g X 0 7.5350 0.9700)
*|I (MX80/M3#g MX80/M3 g X 0 7.9650 0.9700)
*|I (MX61/M0#d MX61/M0 d X 0 5.6495 0.9700)
*|I (MX79/M0#d MX79/M0 d X 0 5.3705 2.9850)
*|I (MX60/M0#s MX60/M0 s X 0 5.6495 2.9850)
*|I (MX59/M0#g MX59/M0 g X 0 6.6750 2.9850)
*|I (MX59/M1#g MX59/M1 g X 0 7.1050 2.9850)
*|I (MX59/M2#g MX59/M2 g X 0 7.5350 2.9850)
*|I (MX59/M3#g MX59/M3 g X 0 7.9650 2.9850)
*|S (10 7.9650 2.9850)
*|S (10#25 7.9650 1.9700)
*|S (10#26 7.5350 1.9700)
*|S (10#27 7.3200 1.9700)
*|S (10#28 7.1050 1.9700)
*|S (10#29 6.6750 1.9700)
*|S (10#31 5.5100 2.9100)
*|S (10#32 5.5100 1.0050)
*|S (10#35 5.5100 1.9700)
C81 MX59/M2#g VSS 6.06961e-17
C82 MX59/M1#g VSS 6.08372e-17
C83 MX59/M0#g VSS 6.64673e-17
C84 MX79/M0#d VSS 1.68528e-16
C85 MX80/M3#g VSS 5.80492e-17
C86 MX80/M2#g VSS 4.80719e-17
C87 MX80/M1#g VSS 4.81661e-17
C88 MX80/M0#g VSS 5.26431e-17
C89 MX81/M0#s VSS 1.32809e-16
C90 10#32 VSS 2.42181e-16
C91 10#35 VSS 3.31644e-16
C92 10#31 VSS 2.32956e-16
C93 10#27 VSS 2.41053e-16
C94 10 VSS 7.48253e-17
Rg90 10 10#25 322.176636 $W=0.15
Rg91 10#25 10#26 62.011234 $W=0.27
Rg92 10#26 10#27 36.929379 $W=0.27
Rg93 10#27 10#28 36.929379 $W=0.27
Rg94 10#28 10#29 62.011227 $W=0.27
Rg95 10#29 MX80/M0#g 317.356659 $W=0.15
Rg96 10#25 MX80/M3#g 317.356659 $W=0.15
Rg97 10#26 MX80/M2#g 314.799744 $W=0.15
Rg98 10#26 MX59/M2#g 319.619751 $W=0.15
Rg99 10#28 MX80/M1#g 314.799744 $W=0.15
Rg100 10#28 MX59/M1#g 319.619751 $W=0.15
Rg101 10#29 MX59/M0#g 322.176636 $W=0.15
Rf102 MX79/M0#d 10#31 6.811321 $W=0.53
Rf103 10#32 MX81/M0#s 8.423712 $W=0.485
Rf104 10#27 10#35 293.282349 $W=0.17
Re105 10#31 10#35 76.510872 $W=0.23
Re106 10#35 10#32 76.524460 $W=0.23
Rmw107 MX61/M0#d MX81/M0#s 0.001000 $W=1000000
Rmw108 MX60/M0#s MX79/M0#d 0.001000 $W=1000000
Rmw109 MX59/M3#g 10 0.001000 $W=1000000
*
*|NET 28 2.38278e-15
*|I (MX71/M0#d MX71/M0 d X 0 3.1305 0.8025)
*|I (MX65/M0#d MX65/M0 d X 0 3.4095 0.8025)
*|I (MX61/M0#s MX61/M0 s X 0 5.8005 0.9700)
*|I (MX83/M0#d MX83/M0 d X 0 3.4095 3.2375)
*|I (MX73/M0#d MX73/M0 d X 0 3.1305 3.2375)
*|I (MX60/M0#d MX60/M0 d X 0 5.8005 2.9850)
*|S (28#2 3.2700 3.0900)
*|S (28#3 3.2700 0.8500)
*|S (28 5.9400 2.9100)
*|S (28#7 5.9400 1.0050)
C95 MX60/M0#d VSS 1.3898e-16
C96 MX61/M0#s VSS 1.15872e-16
C97 MX71/M0#d VSS 8.74833e-17
C98 28#3 VSS 2.57767e-16
C99 28#2 VSS 8.81826e-16
C100 28#7 VSS 2.65182e-16
C101 28 VSS 6.3567e-16
Rf110 MX83/M0#d 28#2 177.917648 $W=0.17
Rf111 28#3 MX71/M0#d 18.764706 $W=0.17
Rf112 MX60/M0#d 28 82.811317 $W=0.53
Rf113 28#7 MX61/M0#s 8.423712 $W=0.485
Re114 28 28#2 2.085335 $W=0.23
Re115 28#2 28#3 153.217392 $W=0.23
Re116 28 28#7 77.035324 $W=0.23
Rmw117 MX65/M0#d MX71/M0#d 0.001000 $W=1000000
Rmw118 MX73/M0#d MX83/M0#d 0.001000 $W=1000000
*
*|NET 30 1.05472e-16
*|I (MX70/M0#s MX70/M0 s X 0 1.2595 0.8025)
*|I (MX67/M0#d MX67/M0 d X 0 0.9805 0.8025)
*|S (30 1.1200 0.8000)
C102 30 VSS 1.05472e-16
Rmw119 MX70/M0#s 30 0.001000 $W=1000000
Rmw120 MX67/M0#d 30 0.001000 $W=1000000
*
*|NET 32 1.48056e-16
*|I (MX74/M0#d MX74/M0 d X 0 0.9805 3.2375)
*|I (MX72/M0#s MX72/M0 s X 0 1.2595 3.2375)
*|S (32 1.1200 3.2350)
C103 32 VSS 1.48056e-16
Rmw121 MX74/M0#d 32 0.001000 $W=1000000
Rmw122 MX72/M0#s 32 0.001000 $W=1000000
*
*|NET 34 1.1123e-16
*|I (MX66/M0#d MX66/M0 d X 0 2.1195 0.8025)
*|I (MX64/M0#s MX64/M0 s X 0 1.8405 0.8025)
*|S (34 1.9800 0.8000)
C104 34 VSS 1.1123e-16
Rmw123 MX66/M0#d 34 0.001000 $W=1000000
Rmw124 MX64/M0#s 34 0.001000 $W=1000000
*
*|NET 36 1.40566e-16
*|I (MX82/M0#s MX82/M0 s X 0 1.8405 3.2375)
*|I (MM0#s MM0 s X 0 2.1195 3.2375)
*|S (36 1.9800 3.2350)
C105 36 VSS 1.40566e-16
Rmw125 MX82/M0#s 36 0.001000 $W=1000000
Rmw126 MM0#s 36 0.001000 $W=1000000
*
*|NET 38 1.08627e-16
*|I (MX71/M0#s MX71/M0 s X 0 2.9795 0.8025)
*|I (MX68/M0#d MX68/M0 d X 0 2.7005 0.8025)
*|S (38 2.8400 0.8000)
C106 38 VSS 1.08627e-16
Rmw127 MX71/M0#s 38 0.001000 $W=1000000
Rmw128 MX68/M0#d 38 0.001000 $W=1000000
*
*|NET 40 1.40955e-16
*|I (MX75/M0#d MX75/M0 d X 0 2.7005 3.2375)
*|I (MX73/M0#s MX73/M0 s X 0 2.9795 3.2375)
*|S (40 2.8400 3.2350)
C107 40 VSS 1.40955e-16
Rmw129 MX75/M0#d 40 0.001000 $W=1000000
Rmw130 MX73/M0#s 40 0.001000 $W=1000000
*
*|NET 42 1.00211e-16
*|I (MX69/M0#d MX69/M0 d X 0 3.8395 0.8025)
*|I (MX65/M0#s MX65/M0 s X 0 3.5605 0.8025)
*|S (42 3.7000 0.8000)
C108 42 VSS 1.00211e-16
Rmw131 MX69/M0#d 42 0.001000 $W=1000000
Rmw132 MX65/M0#s 42 0.001000 $W=1000000
*
*|NET 44 1.49537e-16
*|I (MX83/M0#s MX83/M0 s X 0 3.5605 3.2375)
*|I (MX76/M0#d MX76/M0 d X 0 3.8395 3.2375)
*|S (44 3.7000 3.2350)
C109 44 VSS 1.49537e-16
Rmw133 MX83/M0#s 44 0.001000 $W=1000000
Rmw134 MX76/M0#d 44 0.001000 $W=1000000
*
*Instance Section
*
MX81/M0	MX81/M0#d	MX81/M0#g	MX81/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX80/M0	MX80/M0#d	MX80/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX80/M1	VSS	MX80/M1#g	MX80/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX80/M2	MX80/M2#d	MX80/M2#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX80/M3	VSS	MX80/M3#g	MX80/M3#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX71/M0	MX71/M0#d	MX71/M0#g	MX71/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX70/M0	MX70/M0#d	MX70/M0#g	MX70/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX69/M0	MX69/M0#d	MX69/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX68/M0	MX68/M0#d	MX68/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX67/M0	MX67/M0#d	MX67/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX66/M0	MX66/M0#d	MX66/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX65/M0	MX65/M0#d	MX65/M0#g	MX65/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX64/M0	MX64/M0#d	MX64/M0#g	MX64/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX63/M0	MX63/M0#d	MX63/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX62/M0	MX62/M0#d	MX62/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX61/M0	MX61/M0#d	MX61/M0#g	MX61/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX83/M0	MX83/M0#d	MX83/M0#g	MX83/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX82/M0	MX82/M0#d	MX82/M0#g	MX82/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX79/M0	MX79/M0#d	MX79/M0#g	MX79/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX78/M0	MX78/M0#d	MX78/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX77/M0	MX77/M0#d	MX77/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX76/M0	MX76/M0#d	MX76/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX75/M0	MX75/M0#d	MX75/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX74/M0	MX74/M0#d	MX74/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX73/M0	MX73/M0#d	MX73/M0#g	MX73/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX72/M0	MX72/M0#d	MX72/M0#g	MX72/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX60/M0	MX60/M0#d	MX60/M0#g	MX60/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX59/M0	MX59/M0#d	MX59/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX59/M1	VDD	MX59/M1#g	MX59/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX59/M2	MX59/M2#d	MX59/M2#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX59/M3	VDD	MX59/M3#g	MX59/M3#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	VDD	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
